US09403835B2
Step 5: 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzoic acid
A solution of sodium chlorite (1.17 g; 12.9 mmol; 5.5 eq.) and sodium dihydrogenphosphate (1.01 g; 8.44 mmol; 3.6 eq.) in water (10 mL) was added dropwise to a mixture of 2-methyl-2-butene (2 mL) and 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzaldehyde (690 mg; 2.34 mmol; 1 eq.) in 1,4-dioxane (10 mL). The reaction mixture was stirred at room temperature for 1.5 hour. After dilution with EA, the solution was washed with 1M HCl, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (690 mg, 95%) as a white solid. UPLC/MS: (MS−) 309.1 ([M−H]−).

reactant | sodium chlorite | 12.9 mmol, 1.17 g, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 8.44 mmol, 1.01 g, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 2 mL | CC(C)=CC | C5H10
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzaldehyde | 2.34 mmol, 690 mg, 1 eq. | C(C)(C)(C)[Si](OCC(OC1=C(C=O)C=CC=C1)C)(C)C | C16H26O3Si
solvent | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethoxy]-benzoic acid | 690 mg, 95% | C(C)(C)(C)[Si](OCC(OC1=C(C(=O)O)C=CC=C1)C)(C)C | C16H26O4Si
